US07799805B2
(4-Chloro-3-cyclopropylaminomethyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester
A mixture of (4-chloro-3-formyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester (563 mg, 1.82 mmol) and cyclopropylamine (0.195 mL, 2.73 mmol) in MeOH (18 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt, and NaBH4 (103 mg, 2.73 mmol) was added in portions. The mixture was stirred for 1 h, and the solvents were removed under reduced pressure. The resulting oil was diluted with EtOAc (100 mL), and the resulting mixture was washed with aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (CH2Cl2/MeOH 95:5) yielded the title compound (343 mg, 54%). LC-MS: tR=0.78 min; ES+: 351.39.

reactant | (4-chloro-3-formyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester | 1.82 mmol, 563 mg | C(C)(C)(C)OC(N(C1CC1)CC1=CC(=C(C=C1)Cl)C=O)=O | C16H20ClNO3
reactant | cyclopropylamine | 2.73 mmol, 0.195 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 2.73 mmol, 103 mg | [BH4-].[Na+]
solvent | MeOH | 18 mL | CO | CH4O
product | (4-Chloro-3-cyclopropylaminomethyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester | 343 mg, 54% | C(C)(C)(C)OC(N(C1CC1)CC1=CC(=C(C=C1)Cl)CNC1CC1)=O | C19H27ClN2O2
